US07365066B2
Diethyl-{3-[4-(2-pyridin-2-yl-pyrazolo[1,5-a]pyridin-3-yl)-quinolin-7-yloxy]-propyl}-amine
A solution of 7-(3-chloro-propoxy)-4-(2-pyridin-2-yl-pyrazolo[1,5-a]pyridin-3-yl)-quinoline (0.1 g, 0.24 mmol) in DMF was treated with N,N-diethylamine (excess) and KI (catalytic). The reaction was heated to 60° C. in a sealed tube and stirred overnight. The reaction was quenched with water and extracted with CH2Cl2. The organic was dried and the solvent removed. The crude was purified by silica gel column to afford the desired product. MS ES+ m/e 452 (M+1).

reactant | 7-(3-chloro-propoxy)-4-(2-pyridin-2-yl-pyrazolo[1,5-a]pyridin-3-yl)-quinoline | 0.24 mmol, 0.1 g | ClCCCOC1=CC=C2C(=CC=NC2=C1)C=1C(=NN2C1C=CC=C2)C2=NC=CC=C2 | C24H19ClN4O
reactant | N,N-diethylamine | C(C)NCC | C4H11N
solvent | DMF | CN(C)C=O | C3H7NO
product | Diethyl-{3-[4-(2-pyridin-2-yl-pyrazolo[1,5-a]pyridin-3-yl)-quinolin-7-yloxy]-propyl}-amine | C(C)N(CCCOC1=CC=C2C(=CC=NC2=C1)C=1C(=NN2C1C=CC=C2)C2=NC=CC=C2)CC | C28H29N5O
